US07915261B2
The resulting compound (0.28 g) was dissolved in dimethylformamide (10 ml), and 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (0.28 g), 1-hydroxybenzotriazole (0.16 g), TEA (0.54 ml) and 6-phenylhexanoic acid (0.18 g) were added thereto, followed by stirring at room temperature for 15 hours. Water was added to the reaction solution and further stirred for 1 hour. Then, sodium hydrogencarbonate solution was added thereto, followed by extraction with EtOAc. The organic layer was washed with saturated brine. The organic layer was dried over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: EtOAc) to obtain a colorless powder. This was recrystallized from methanol and diethyl ether to obtain (pyridin-3-yl) 4-[(6-phenylhexanoyl)amino]piperidine-1-carboxylate (108 mg).

reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.28 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.16 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 6-phenylhexanoic acid | 0.18 g | C1(=CC=CC=C1)CCCCCC(=O)O | C12H16O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | (pyridin-3-yl) 4-[(6-phenylhexanoyl)amino]piperidine-1-carboxylate | 108 mg | C1(=CC=CC=C1)CCCCCC(=O)NC1CCN(CC1)C(=O)OC=1C=NC=CC1 | C23H29N3O3
